US07354951B2
8-bromo-6-methoxymethoxy-2-oxo-2H-chromene (3b)
Add BBr3 (0.75 mL, 8 mmol) to preparation 3(662 mg, 2.0 mmol) in 20 mL of dichloromethane at 0° C. Let stir for 15 min. Add 8 mL of methanol and then concentrate. Adsorb to 6 g of silica gel and purify by flash chromatography (40 g, 10-50% A/B, A=10% MeOH in EtOAc, B=hexanes) to give 476 mg of 8-Bromo-6-hydroxy-chromen-2-one (3). Add chloromethyl methyl ether (0.18 mL) to a solution of 8-bromo-6-hydroxy-chromen-2-one (476 mg, 1.97 mmol) and K2CO3 (660 mg, 4.77 mmol) in 10 of DMF. Let the solution stir overnight, add 0.09 mL more chloromethyl methyl ether, let stir 2 hrs, dilute with EtOAc, wash with water, 1:1 water:brine, brine, dry (Na2SO4), filter and concentrate to yield 524 mg (1.84 mmol, 93%) of preparation 5. 1H NMR (400 MHz, CDCl3) δ 7.63 (d, 1H, J=9.2 Hz), 7.50 (d, 1H, J=2.6 Hz), 7.12 (d, 1H, J=2.6 Hz), 6.46 (d, 1H, J=9.7 Hz), 5.20 (s, 2H), 3.50 (s, 3H).

reactant | chloromethyl methyl ether | 0.18 mL | COCCl | C2H5ClO
reactant | 8-bromo-6-hydroxy-chromen-2-one | 1.97 mmol, 476 mg | BrC=1C=C(C=C2C=CC(OC12)=O)O | C9H5BrO3
reactant | K2CO3 | 4.77 mmol, 660 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 8-bromo-6-methoxymethoxy-2-oxo-2H-chromene | BrC=1C=C(C=C2C=CC(OC12)=O)OCOC | C11H9BrO4
